US04816447
C. 9-(1,3-Dihydroxy-2-propoxymethyl)guanine
A solution of 838 mg (2.2 mmole) of 2-acetamido-9-(1,3-diacetoxy-2-propoxymethyl)hypoxanthine in 8.5 ml of 40% methylamine (aqueous) was stirred at gentle reflux under N2 for 1 hour. The solution was then cooled and concentrated to dryness. The residual white solid was recrystallized from a minimum volume of H2O containing 2 drops of acetic acid. After standing in the refrigerator, the product was collected on a filter and washed with a small amount of H2O, then acetone. The material was dried under high vacuum at 75° for 3 hours to giive 529 mg (90% based on hydration with 0.75H2O) of white crystals, mp 249°-250° dec. The material was homogeneous by TLC (80:20:2 CHCl3 --MeOH--H2O), and the structure was confirmed by NMR.

reactant | 2-acetamido-9-(1,3-diacetoxy-2-propoxymethyl)hypoxanthine | 2.2 mmole, 838 mg | C(C)(=O)NC=1NC(C=2N=CN(C2N1)COC(COC(C)=O)COC(C)=O)=O | C15H19N5O7
solvent | methylamine | 8.5 ml | CN | CH5N
product | 9-(1,3-Dihydroxy-2-propoxymethyl)guanine | OCC(CO)OCN1C=2N=C(NC(C2N=C1)=O)N | C9H13N5O4
